US05244894
2-[[3-(4-(5-Chloro-2-methoxyphenyl)piperazin-1-yl]propyl]amino]-N-[2-[(4-oxo-1,4-dihydropyrimidin-2-yl)amino]ethyl]pyrimidine-4-carboxamide
1.89 g of (4.5 mmols) of methyl 2-[[3-[4-(5-chloro-2-methoxyphenyl)piperazin-1-yl]propyl]amino]-pyrimidine-4-carboxylate and 0.77 g (5 mmols) of 2-[(2-aminoethyl)amino]pyrimidin-4(1H)-one in 5 ml of n-butanol are introduced into a 25 ml, round bottomed flask. The mixture is heated at the reflux temperature of the solvent for 15 hours and then the solvent is evaporated under reduced pressure.

reactant | methyl 2-[[3-[4-(5-chloro-2-methoxyphenyl)piperazin-1-yl]propyl]amino]-pyrimidine-4-carboxylate | 4.5 mmols, 1.89 g | ClC=1C=CC(=C(C1)N1CCN(CC1)CCCNC1=NC=CC(=N1)C(=O)OC)OC | C20H26ClN5O3
reactant | 2-[(2-aminoethyl)amino]pyrimidin-4(1H)-one | 5 mmols, 0.77 g | NCCNC=1NC=CC(N1)=O | C6H10N4O
solvent | n-butanol | 5 ml | C(CCC)O | C4H10O
product | 2-[[3-(4-(5-Chloro-2-methoxyphenyl)piperazin-1-yl]propyl]amino]-N-[2-[(4-oxo-1,4-dihydropyrimidin-2-yl)amino]ethyl]pyrimidine-4-carboxamide | ClC=1C=CC(=C(C1)N1CCN(CC1)CCCNC1=NC=CC(=N1)C(=O)NCCNC=1NC=CC(N1)=O)OC | C25H32ClN9O3
